US05194442
7-Cyano-2,3-dihydro-1-benzoxepin
18.9 g (0.1 mole) of 7-cyano-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin are heated with 0.3 g of p-toluenesulfonic acid monohydrate in toluene with a water trap for 1.5 hours. After the solution has cooled it is washed with 1N potassium bicarbonate solution, water and saturated sodium chloride solution and, after drying over sodium sulfate, the solvent is evaporated off in vacuo. 16.3 g of solid of melting point 69°-71° C. are obtained.

reactant | 7-cyano-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin | 0.1 mole, 18.9 g | C(#N)C=1C=CC2=C(C(CCCO2)O)C1 | C11H11NO2
reactant | p-toluenesulfonic acid monohydrate | 0.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-Cyano-2,3-dihydro-1-benzoxepin | 16.3 g | C(#N)C=1C=CC2=C(C=CCCO2)C1 | C11H9NO
